US04329281
rac.N-(alpha-Methylphenethyl)acetamide
Seventy three and six tenths g (0.2 moles) of rac. amphetamine sulfate was suspended in 150 ml of water and to the stirred suspension, a solution of twenty g (0.5 moles) of sodium hydroxide in 200 ml of water was added. The liberated oil was collected by three extractions with 200-ml portions of toluene. The combined extracts were dried over anhydrous K2CO3, then the drying agent removed by filtration. To the filtrate, 100 ml of acetic anhydride (1.0 mole) was added in portions and the resulting solution refluxed for two hours. The toluene, excess anhydride and acetic acid were distilled in the rotary evaporator and the residual oil distilled in a simple Claisen still collecting the fractions that boiled at 120°-126°/7 mm, yield 63.3 g (89%) of a colorless oil that spontaneously set to a mass of crystals, mp 91°-93°.

reactant | rac. amphetamine sulfate | 0.2 moles | S(=O)(=O)(O)O.NC(C)CC1=CC=CC=C1
reactant | sodium hydroxide | 0.5 moles | [OH-].[Na+]
reactant | acetic anhydride | 1.0 mole, 100 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 150 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | N-(alpha-Methylphenethyl)acetamide | CC(CC1=CC=CC=C1)NC(C)=O | C11H15NO
